US07960365B2
A mixture of (R)-1-(4-bromophenyl)ethylamine (0.10 g, 0.5 mmol), 5-fluoro-2-methoxyphenyl boronic acid (0.17 g, 1 mmol), and palladium (II) acetate (0.011 g, 0.05 mmol) was heated for 5 min at 200° C. in a Smithcreator microwave oven. The mixture was then poured onto an SCX column, washed with dichloromethane/methanol, and the intermediate amine eluted using 1M ammonia in methanol (50 ml). Evaporation of solvents under reduced pressure gave (R)-1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine. To a solution of (R)-1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine (0.25 g, 0.1 mmol) in dichloromethane (1 ml) was added triethylamine (0.025 g, 0.25 mmol) and 2,4 difluorophenyl-sulfonyl chloride (0.043 g, 0.2 mmol). The solution was stirred overnight and then quenched with acetic acid (0.5 ml). Purification by preparatory LCMS and removal of solvent under reduced pressure gave the title compound: 1H NMR (400 MHz, DMSO): δ 8.58 (d, 1H), 7.64 (q, 1H), 7.30-6.98 (m, 9H), 4.44 (dq, 1H), 3.74 (s, 3H), 1.36 (d, 3H) ppm; MS (ESI) m/z: value [M+H]+.

reactant | (R)-1-(4-bromophenyl)ethylamine | 0.5 mmol, 0.10 g | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
reactant | 5-fluoro-2-methoxyphenyl boronic acid | 1 mmol, 0.17 g | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
catalyst | palladium (II) acetate | 0.05 mmol, 0.011 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine | FC=1C=CC(=C(C1)C1=CC=C(C=C1)[C@@H](C)N)OC | C15H16FNO
